US09108969B2
Step A: Preparation of tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-ethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To a solution of tert-butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (17 mg, 0.027 mmol) in THF (0.500 mL) in a 0.5-2.0 mL heavy-walled microwave sealed tube under N2 was added diethylzinc (0.074 mL, 0.037 mmol) and bis(tri-t-butylphosphine)palladium(0) (1.223 mg, 2.393 μmol). The reaction was then heated to 70° C. for 2 h. The reaction mixture was quenched with saturated NaHCO3, filtered by vacuum filtration through Celite®, and washed with EtOAc (2×5 mL). The filtrate was then extracted with EtOAc (3×5 mL). The organic layers were combined and washed with saturated NaCl (1×10 mL), dried (MgSO4), and filtered by vacuum filtration through a glass fiber paper. The solvent was removed under reduced pressure. The residue was purified by preparative TLC to give the title compound (6.6 mg) as an amber oil. LCMS m/z=542.6 [M+H]+.

reactant | tert-butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.027 mmol, 17 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)I)C=C1)C(F)(F)F | C30H33F3INO3
reactant | diethylzinc | 0.037 mmol, 0.074 mL | C(C)[Zn]CC
solvent | THF | 0.500 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium(0) | 2.393 μmol, 1.223 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-ethyl-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 6.6 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)CC)C=C1)C(F)(F)F | C32H38F3NO3
